US06326386B1
(2-{3-[(2-tert-Butylcarbamoyl-ethyl)-cyclobutylcarbamoyl]-5-chloro-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester
To a stirred solution of ({3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoyl}-cyclobutyl-amino)-propionic acid (0.025 g) and HATU® (0.038 g) in DMF (1 ml) was added DIPEA (0.017 ml) followed by tert-butylamine (0.053 ml) after 10 min. The reaction mixture was stirred at room temperature for 18 h and then concentrated under reduced pressure. The residue was subjected to preparative hplc and the title compound (0.021 g) was obtained as a colourless gum by concentration of the required fraction under reduced pressure and drying by repetitive addition of acetonitrile and concentration under reduced pressure.

reactant | ({3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoyl}-cyclobutyl-amino)-propionic acid | 0.025 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)N(C2CCC2)C(C(=O)O)C)C=C(C1)Cl)C1=CC=NC=C1 | C26H32ClN3O6
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.017 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butylamine | 0.053 ml | C(C)(C)(C)N | C4H11N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (2-{3-[(2-tert-Butylcarbamoyl-ethyl)-cyclobutylcarbamoyl]-5-chloro-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester | 0.021 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)Cl)C(N(C1CCC1)CCC(NC(C)(C)C)=O)=O)=O | C30H41ClN4O5
